US05409927
1d ) Z-(L)-Phe-morpholin-4-ylamide
A solution of 4.49 g of Z-(L)-Phe-OH in 190 ml of methylene chloride is cooled to 0° C. and 3.09 g of DCC are added. After stirring for 20 minutes at 0° C., a solution of 1.31 ml of morpholine in 10 ml of methylene chloride is added dropwise thereto over a period of 15 minutes. The reaction mixture is stirred for a further 24 hours at room temperature and, after the precipitated dicyclohexylurea has been filtered off, is washed in succession with methylene chloride, aqueous sodium hydrogen carbonate solution and brine. Drying over sodium sulfate and concentration yield the crude title compound which crystallises from ether. TLC Rf (C)=0.55.

reactant | Z-(L)-Phe-OH | 4.49 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO4
reactant | DCC | 3.09 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | morpholine | 1.31 ml | N1CCOCC1 | C4H9NO
solvent | methylene chloride | 190 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Z-(L)-Phe morpholin-4-ylamide | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1.N1(CCOCC1)[NH-] | InChI=1S/C17H17NO4.C4H9N2O/c19-16(20)15(11-13-7-3-1-4-8-13)18-17(21)22-12-14-9-5-2-6-10-14;5-6-1-3-7-4-2-6/h1-10,15H,11-12H2,(H,18,21)(H,19,20);5H,1-4H2/q;-1/t15-;/m0./s1
